US06340678B1
To a solution of 10 g of (Z)-(4,4-difluoro-1-tosyl-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene)acetic acid in 100 ml of tetrahydrofuran were added 4.12 g of 1-hydroxybenzotriazole, 5.85 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide monohydrochloride and 3.36 ml of 1-methylpiperazine, followed by stirring for two hours at room temperature. After evaporation of the solvent, ethyl acetate was added to the residue, and the mixture was washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of NaCl. After drying over magnesium sulfate, the solvent was evaporated off. The resulting residue was collected by filtration to give 11.76 g of (Z)-4,4-difluoro-5-[2-(4-methylpiperazin-1-yl)-2-oxoethylidene]-1-tosyl-2,3,4,5-tetrahydro-1H-1-benzoazepine as a colorless amorphous solid.

reactant | (Z)-(4,4-difluoro-1-tosyl-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene)acetic acid | 10 g | FC\1(CCN(C2=C(/C1=C/C(=O)O)C=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2)F | C19H17F2NO4S
reactant | 1-hydroxybenzotriazole | 4.12 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide monohydrochloride | 5.85 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-methylpiperazine | 3.36 ml | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (Z)-4,4-difluoro-5-[2-(4-methylpiperazin-1-yl)-2-oxoethylidene]-1-tosyl-2,3,4,5-tetrahydro-1H-1-benzoazepine | 11.76 g | FC\1(CCN(C2=C(/C1=C/C(=O)N1CCN(CC1)C)C=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2)F | C24H27F2N3O3S
